US04241058
A Grignard solution is prepared in the usual manner from 10.7 g of magnesium in 30 ml of absolute ether and 68.8 g of methyl iodide in 100 ml of absolute ether. To this solution are added dropwise at 20°-25° C. over a period of 15-20 minutes 56.1 g of p-tert.butyl-α,β-dimethyl-cinnamaldehyde. After cooling to room temperature, the mixture is cautiously poured on to 200 g of ice and 150 g of technical ammonium chloride in 500 ml of water are added. The organic phase is separated, washed with water and sodium bicarbonate solution, dried over sodium sulphate and concentrated. By distillation there is obtained pure 3-(p-tert.butyl-phenyl)-1,2,3-trimethyl-allyl alcohol of boiling point 143°-148° C./0.001 Torr.

reactant | magnesium | 10.7 g | [Mg] | Mg
reactant | methyl iodide | 68.8 g | CI | CH3I
reactant | p-tert.butyl-α,β-dimethyl-cinnamaldehyde | 56.1 g | C(C)(C)(C)C1=CC=C(C(=C(C=O)C)C)C=C1 | C15H20O
reactant | ammonium chloride | 150 g | [Cl-].[NH4+]
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 500 ml | O | H2O
product | 3-(p-tert.butyl-phenyl)-1,2,3-trimethyl-allyl alcohol | C(C)(C)(C)C1=CC=C(C=C1)C(=C(C(C)O)C)C | C16H24O
